US07449580B2
Synthesis of methyl 2-methoxycarbonylmethylthiophen-3-carboxylate (Compound of Formula 2a)
100.0 g of dimethyl 1,3-acetonedicarboxylate was dissolved in 2,800 ml of dioxane, and added thereto were 52.5 g of 2,5-dihydroxy-1,4-dithiane and 5.0 g of lithium bromide. The resulting mixture was refluxed for 15 hours, cooled to room temperature, and concentrated by evaporation. To the residue, 1,000 ml of n-hexane was added, stirred, and the hexane layer was separated. This extraction procedure was repeated twice using 500 ml portions of n-hexane. The separated n-hexane layers were combined and concentrated under reduced pressure to obtain 60.9 g (yield of 49%) of the title compound as an oil, which was directly used in the next step without any purification. An analytical sample of the title compound could be obtained by vacuum distillation.

reactant | dimethyl 1,3-acetonedicarboxylate | 100.0 g | COC(=O)CC(=O)CC(=O)OC | C7H10O5
reactant | 2,5-dihydroxy-1,4-dithiane | 52.5 g | OC1SCC(SC1)O | C4H8O2S2
reactant | lithium bromide | 5.0 g | [Br-].[Li+]
solvent | dioxane | 2,800 ml | O1CCOCC1 | C4H8O2
product | methyl 2-methoxycarbonylmethylthiophen-3-carboxylate | 60.9 g, yield of 49% | COC(=O)CC=1SC=CC1C(=O)OC | C9H10O4S
